US07714009B2
4-Isothiocyanato-1-methyl-2-nitrobenzene
To a mixture of 4-methyl-3-nitroaniline (1.00 g, 6.57 mmol) and triethylamine (2.75 ml, 19.7 mmol) in THF (150 ml) was added dropwise thiophosgene (0.55 ml) at 0° C. After addition, the reaction mixture was allowed to stir at room temperature for 15 h. The mixture was diluted with water and extracted with ether. The extract was washed with water and brine, dried over magnesium sulfate, and concentrated under vacuum to afford 1.04 g of the title compound.

reactant | 4-methyl-3-nitroaniline | 6.57 mmol, 1.00 g | CC1=C(C=C(N)C=C1)[N+](=O)[O-] | C7H8N2O2
reactant | triethylamine | 19.7 mmol, 2.75 ml | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 0.55 ml | C(=S)(Cl)Cl | CCl2S
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 4-Isothiocyanato-1-methyl-2-nitrobenzene | 1.04 g | N(=C=S)C1=CC(=C(C=C1)C)[N+](=O)[O-] | C8H6N2O2S
